US08633173B2
[4-(4-Methyl-piperazin-1-yl)-phenyl]-{8-[4-(propane-2-sulfonyl)-phenyl]-[,2,4]triazolo[1,5-a]pyridin-2-yl}-amine
[4-(4-Methyl-piperazin-1-yl)-phenyl]-{8-[4-(propane-2-sulfonyl)-phenyl]-[1,2,4]triazolo[1,5-a]pyridin-2-yl}-amine was prepared from 8-[4-(propane-2-sulfonyl)-phenyl]-[1,2,4]triazolo[1,5-a]pyridin-2-ylamine (75.0 mg, 0.237 mmol) and 1-(4-bromo-phenyl)-4-methyl-piperazine (75.0 mg, 0.294 mmol) with 2,2′-bis-dicyclohexylphosphanyl-biphenyl (48.0 mg, 0.0877 mmol) as the ligand in a manner analogous to Step 2d. The title compound was isolated as a yellow foam (0.051 g, 44%). 1H NMR (400 MHz, CDCl3, δ, ppm): 8.46 (d, J=6.7 Hz, 1H), 8.25 (d, J=7.8 Hz, 2H), 8.02 (d, J=7.8 Hz, 2H), 7.65 (d, J=7.3 Hz, 1H), 7.49 (d, J=7.8 HZ, 2H), 7.01-6.95 (m, 3H), 6.69 (s, 1H), 3.30-3.15 (m, 5H), 2.63-2.58 (m, 4H), 2.36 (s, 3H), 1.36 (d, J=6.7 Hz, 6H). MS=491 (MH)+.

reactant | 8-[4-(propane-2-sulfonyl)-phenyl]-[1,2,4]triazolo[1,5-a]pyridin-2-ylamine | 0.237 mmol, 75.0 mg | CC(C)S(=O)(=O)C1=CC=C(C=C1)C=1C=2N(C=CC1)N=C(N2)N | C15H16N4O2S
reactant | 1-(4-bromo-phenyl)-4-methyl-piperazine | 0.294 mmol, 75.0 mg | BrC1=CC=C(C=C1)N1CCN(CC1)C | C11H15BrN2
reactant | 2,2′-bis-dicyclohexylphosphanyl-biphenyl | 0.0877 mmol, 48.0 mg | C1(CCCCC1)P(C1=C(C=CC=C1)C1=C(C=CC=C1)P(C1CCCCC1)C1CCCCC1)C1CCCCC1 | C36H52P2
product | [4-(4-Methyl-piperazin-1-yl)-phenyl]-{8-[4-(propane-2-sulfonyl)-phenyl]-[1,2,4]triazolo[1,5-a]pyridin-2-yl}-amine | CN1CCN(CC1)C1=CC=C(C=C1)NC1=NN2C(C(=CC=C2)C2=CC=C(C=C2)S(=O)(=O)C(C)C)=N1 | C26H30N6O2S
